US09315487B2
A microwaveable vial was charged with 6-(((2S,4R)-1-acetyl-6-ethynyl-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile (for a preparation see Intermediate 9) (527 mg, 1.595 mmol), Copper (I) Iodide (30 mg, 0.158 mmol), methanol (0.333 ml), DMF (3 ml). Azidotrimethylsilane (0.423 ml, 3.19 mmol) was added to the solution, the vial sealed and heated at 100° C. for 1 h (microwave). Azidotrimethylsilane (0.211 ml, 1.59 mmol) was added to the vial and the mixture heated for a further 1 h (sealed vial, microwave). Azidotrimethylsilane (0.211 ml, 1.590 mmol), and copper (I) iodide (30 mg, 0.158 mmol) was added. The vial was resealed and heated for a further 1 h. The reaction solution was concentrated in vacuo, diluted with water (15 ml) and extracted with DCM (3×10 ml). The organics were combined and dried (hydrophobic frit). The mixture was concentrated and the sample purified by chromatography on a silica cartridge (50 g) eluting with a methanol/DCM gradient (0-10%). The appropriate fractions were combined and the solvent evaporated in vacuo to give 6-(((2S,4R)-1-acetyl-2-methyl-6-(1H-1,2,3-triazol-4-yl)-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile (50 mg). LCMS (formate): Rt 0.71 min, MH+ 374

reactant | 6-(((2S,4R)-1-acetyl-6-ethynyl-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C#C)NC1=NC=C(C#N)C=C1)C | C20H18N4O
reactant | methanol | 0.333 ml | CO | CH4O
reactant | Azidotrimethylsilane | 3.19 mmol, 0.423 ml | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | Azidotrimethylsilane | 1.59 mmol, 0.211 ml | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | Azidotrimethylsilane | 1.590 mmol, 0.211 ml | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
catalyst | Copper (I) Iodide | 0.158 mmol, 30 mg | [Cu]I
catalyst | copper (I) iodide | 0.158 mmol, 30 mg | [Cu]I
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 6-(((2S,4R)-1-acetyl-2-methyl-6-(1H-1,2,3-triazol-4-yl)-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile | 50 mg | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1N=NNC1)NC1=NC=C(C#N)C=C1)C | C20H19N7O
